US07435823B2
Step (a) Preparation of Methyl 6-(6,7-dimethoxyquinazolin-4-ylamino)-1-naphthoate
The following reagents were combined in a flask and placed in a RT oil bath that was then heated to 90° C.: 4-Chloro-6,7-dimethoxyquinazoline (954 mg, 4.24 mmol), methyl 6-amino-1-naphthoate (857 mg, 4.24 mmol), TFA (098 mL, 12.7 mmol), and isopropanol (12 mL). The reaction was done before the bath reached the desired temperature. The mixture was diluted with water and made pH basic with 6N NaOH. The solid was filtered and rinsed with water and Et2O. The title compound was obtained as a pink solid.

reactant | 4-Chloro-6,7-dimethoxyquinazoline | 4.24 mmol, 954 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OC | C10H9ClN2O2
reactant | methyl 6-amino-1-naphthoate | 4.24 mmol, 857 mg | NC=1C=C2C=CC=C(C2=CC1)C(=O)OC | C12H11NO2
reactant | TFA | 12.7 mmol | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | NaOH | 6N | [OH-].[Na+]
solvent | water | O | H2O
solvent | isopropanol | 12 mL | C(C)(C)O | C3H8O
product | Methyl 6-(6,7-dimethoxyquinazolin-4-ylamino)-1-naphthoate | COC=1C=C2C(=NC=NC2=CC1OC)NC=1C=C2C=CC=C(C2=CC1)C(=O)OC | C22H19N3O4
